US07365085B2
b. Methyl 2,2-dimethyl-3-(3-benzyloxyphenyl)propionate
A solution of 2,2-dimethyl-3-(3-benzyloxyphenyl)propionic acid (400 mg, 1.4 mmole) in 20 mL of MeOH and 0.5 mL conc. H2SO4 was refluxed for 18 hours. The reaction was cooled, diluted with H2O and extracted with Et2O. The extracts were washed with H2O, three times with aqueous NaHCO3, dried, and the solvent evaporated. The residue was chromatographed over a silica gel column, and elution with a mixture of CH2Cl2, hexane and MeOH (50:50:1) gave the titled compound, 208 mg (50% yield). MS (ESI) 299 (MH+).

reactant | 2,2-dimethyl-3-(3-benzyloxyphenyl)propionic acid | 1.4 mmole, 400 mg | CC(C(=O)O)(CC1=CC(=CC=C1)OCC1=CC=CC=C1)C | C18H20O3
reactant | MeOH | 20 mL | CO | CH4O
solvent | H2SO4 | 0.5 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | O | H2O
product | Methyl 2,2-dimethyl-3-(3-benzyloxyphenyl)propionate | 50% yield | CC(C(=O)OC)(CC1=CC(=CC=C1)OCC1=CC=CC=C1)C | C19H22O3
